US08133887B2
Olivetol (49.5 g, 261 mmol) and ethyl 2-oxocyclohexanecarboxylate (47.7 ml, 285 mmol) were initially introduced in toluene and, after addition of 28.8 ml (310 mmol) of phosphoryl chloride, were stirred at room temp. for 38 h. The reaction mixture was slowly poured into 400 ml of water and stirred vigorously for 30 min. The precipitated yellow solid was filtered off and washed with water and toluene. The pale-yellow solid was taken up in hot ethyl methyl ketone, washed with aqueous saturated sodium hydrogencarbonate soln. solution and sat. sodium chloride solution, dried over sodium sulfate, filtered and evaporated in vacuo. Crystallisation of the crude product from acetonitrile/toluene gave 32.7 g (82%) of 1-hydroxy-3-pentyl-7,8,9,10-tetra-hydrobenzo[c]chromen-6-one as colourless crystals.

reactant | Olivetol | 261 mmol, 49.5 g | C1(=CC(O)=CC(CCCCC)=C1)O | C11H16O2
reactant | ethyl 2-oxocyclohexanecarboxylate | 285 mmol, 47.7 ml | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | phosphoryl chloride | 310 mmol, 28.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 400 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-hydroxy-3-pentyl-7,8,9,10-tetra-hydrobenzo[c]chromen-6-one | 32.7 g, 82% | OC1=C2C3=C(C(OC2=CC(=C1)CCCCC)=O)CCCC3 | C18H22O3
